US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-biphenylyl)-imidazole dihydrochloride
20 ml of concentrated hydrochloric acid are added, with stirring, to a mixture of 5.09 g (0.0248 mol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 6.23 g (0.0248 mol) of 1,2-diamino-4-(4-biphenylyl)-imidazole and 70 ml of isopropanol, and the mixture is stirred at 120° C. for 28 hours. Cooling to room temperature, filtration, washing the crystallizate with isopropanol and drying under a high vacuum yield the title compound with a water content of 0.9%, m.p. 284°-285° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.28 (d, 1H); 7.99 (s, 4H); 7.80 (s, 4H); 7.60-7.76 (m, 4H); 7.35-7.53 (m, 3H); 3.32 (s, 4H).

reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 0.0248 mol, 5.09 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(4-biphenylyl)-imidazole | 0.0248 mol, 6.23 g | NN1C(=NC(=C1)C1=CC=C(C=C1)C1=CC=CC=C1)N | C15H14N4
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-biphenylyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)C1=CC=CC=C1)N | InChI=1S/C25H22N6O.2ClH/c26-24(30-32)21-8-4-7-20-19(21)13-14-22(20)29-31-15-23(28-25(31)27)18-11-9-17(10-12-18)16-5-2-1-3-6-16;;/h1-12,15,32H,13-14H2,(H2,26,30)(H2,27,28);2*1H
